US07049438B2
Using an analogous procedure to that described in Example 20, 7-benzyloxy-4-(2-chloro-5-methoxyanilino)-5-cyclohexyloxyquinazoline was reacted with trifluoroacetic acid to give 4-(2-chloro-5-methoxyanilino)-5-cyclohexyloxy-7-hydroxyquinazoline; NMR Spectrum: (DMSOd6 and CF3CO2D) 1.2–1.35 (m, 1H), 1.4–1.55 (m, 2H), 1.55–1.65 (m, 1H), 1.7–1.85 (m, 4H), 2.15 (m, 2H), 3.82 (s, 3H), 4.85 (m, 1H), 6.8 (s, 1H), 7.0 (s, 1H), 7.05 (m, 1H), 7.55 (d, 1H), 7.6 (d, 1H), 8.82 (s, 1H); Mass Spectrum: M+H+ 400 and 402.

reactant | 7-benzyloxy-4-(2-chloro-5-methoxyanilino)-5-cyclohexyloxyquinazoline | C(C1=CC=CC=C1)OC1=CC(=C2C(=NC=NC2=C1)NC1=C(C=CC(=C1)OC)Cl)OC1CCCCC1 | C28H28ClN3O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2-chloro-5-methoxyanilino)-5-cyclohexyloxy-7-hydroxyquinazoline | ClC1=C(NC2=NC=NC3=CC(=CC(=C23)OC2CCCCC2)O)C=C(C=C1)OC | C21H22ClN3O3
